US06656938B2
A solution of 2-(2-aminoethoxy)ethanol (29.0 g, 0.276 mol) in 180 mL of tetrahydrofuran (THF), under N2, was cooled to 0° C. and treated with 140 mL of 2N NaOH solution. A solution of di-tert-butyl dicarbonate (60.2 g, 0.276 mol) in 180 mL of THF was then added dropwise over 1 h to the rapidly stirred solution. The reaction mixture was then allowed to warm to room temperature and was stirred an additional 18 h. The THF was then removed under reduced pressure and the remaining aqueous slurry was brought to pH 3 by addition of 150 mL of 1M H2SO4 solution. This was then extracted with ethyl acetate (300 mL, 100 mL) and the combined organic layers were washed with H2O (2×) and brine. The organic portion was dried over Na2SO4 and concentrated to give tert-butyl 2-(2-hydroxyethoxy)ethylcarbamate as a colorless oil (47.1 g).

reactant | 2-(2-aminoethoxy)ethanol | 0.276 mol, 29.0 g | NCCOCCO | C4H11NO2
reactant | NaOH | 2N, 140 mL | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 0.276 mol, 60.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 180 mL | O1CCCC1 | C4H8O
solvent | THF | 180 mL | O1CCCC1 | C4H8O
product | tert-butyl 2-(2-hydroxyethoxy)ethylcarbamate | 47.1 g | OCCOCCNC(OC(C)(C)C)=O | C9H19NO4
